US04377531
General Method of Preparation Of 2-(4-methoxyphenyl)-3-methylbutyronitrile
A mixture comprising: isopropyl bromide, sodium hydroxide pels, and optionally the catalyst triethylamine (i.e., approximately 0.5 to 12 mol or weight percent) is stirred and heated to 50°-60° C. Over approximately a 30-minute period 4-methoxyphenylacetonitrile is added to the reaction mixture. Following this addition, the mixture is stirred and heated at reflux for several hours. After cooling, water is added to the reaction mixture which is then stirred briefly. The organic phase containing the product is then separated. This solution can be used in subsequent reaction steps or the product can be isolated by removal of the solvents.

reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
reactant | triethylamine | approximately 0.5 to 12 mol | C(C)N(CC)CC | C6H15N
reactant | 4-methoxyphenylacetonitrile | COC1=CC=C(C=C1)CC#N | C9H9NO
solvent | water | O | H2O
product | 2-(4-methoxyphenyl)-3-methylbutyronitrile | COC1=CC=C(C=C1)C(C#N)C(C)C | C12H15NO
